US07531564B2
Step c) 2-(3-Fluoro-4-hydroxyphenyl)-7-vinyl-1,3-benzoxazol-5-ol
Hydrofluoric acid (48 wt. % in water, 1 mL) was added into a solution of 5-{[tert-butyl)dimethyl)silyl]oxy}-2-(4-{[tert-butyl(dimethyl)silyl]oxy}-3-fluorophenyl)-7-vinyl-1,3-benzoxazole (1.5 g, 3.0 mmol), THF (6 mL) and acetonitrile (3 mL). The reaction mixture was stirred at 65° C. for 8 h, and then poured into water. The precipitated solid was filtered oft and dried. Crystallization of the product from acetone/ethyl ether gave a white solid (0.72 g, 81% yield, m.p. 249-251° C.); MS m/e 272 (M+H)+.

reactant | Hydrofluoric acid | 1 mL | F | FH
reactant | 2-(4-{[tert-butyl(dimethyl)silyl]oxy}-3-fluorophenyl)-7-vinyl-1,3-benzoxazole | 3.0 mmol, 1.5 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2C=C)F | C21H24FNO2Si
reactant | THF | 6 mL | C1CCOC1 | C4H8O
reactant | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-(3-Fluoro-4-hydroxyphenyl)-7-vinyl-1,3-benzoxazol-5-ol | 0.72 g, 81% yield | FC=1C=C(C=CC1O)C=1OC2=C(N1)C=C(C=C2C=C)O | C15H10FNO3
